US05272172
2-[(1S, 2R, 3R)-2-(hydroxymethyl)-3-methylcyclopent-1-yl]-2-propen-1-ol (100 mg, 0.00059 mol) obtained in Definite Example 47 was dissolved in 3 ml of dichloromethane, and after 2 ml of 2,2-dimethoxypropane was added, 5 mg of p-toluenesulfonic acid wad added. The reaction mixture was stirred at room temperature for 12 hours. The reaction mixture was poured into 50 ml of ethyl acetate, and organic layer was washed with a mixed aqueous solution of saturated sodium bicarbonate solution (10 ml) and saturated sodium chloride solution (20 ml), was dried by adding magnesium sulfate, was filtered and was thereafter concentrated under a reduced pressure The residual matter was purified by chromatography using silica gel, and the solvent of the fraction obtained from hexane:ether=9:1 eluent was distilled off. A colorless oily substance was thus obtained, i.e., (1R, 8S, 11R)-4, 4, 11-trimethyl-7-methylene-3, 5-dioxabicyclo[6. 3. 0]undecane (108 mg, yield=87.4%). This (1R, 8S, 11R)-4, 4, 11-trimethyl-7-methylene-3, 5-dioxabicyclo[6, 3, 0]undecane had the following physicochemical properties:

reactant | 2,2-dimethoxypropane | 2 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (1R, 8S, 11R)-4, 4, 11-trimethyl-7-methylene-3, 5-dioxabicyclo[6. 3. 0]undecane | 108 mg, yield=87.4% | CC1(OC[C@@H]2[C@@H](CC[C@@H]2C(CO1)=C)C)C | C13H22O2
